US06031112
N2,N6-bis[(phenylmethoxy)carbonyl]-L-lysine
In a four necked flask equipped with mechanic stirrer, thermometer, pH-meter and dripping funnel, 91.3 g (0.50 moles) of L-lysine hydrochloride are dissolved under stirring in 800 ml of water and then a 30% (w/v) aqueous solution of sodium hydroxide is added until the pH value is brought to 11.5. 185.3 Grams (1.05 moles) of 97% benzylchloroformate are added under stirring during one hour and half while keeping the temperature at 20° C.-25° C. and the pH value between 11.0 and 11.5 by addition of a 30% (w/v) aqueous solution of sodium hydroxide. The reaction is kept another hour and half under stirring while keeping the same values of pH and temperature, subsequently the pH value is brought between 7 and 8 by addition of a 30% (w/v) aqueous solution of hydrochloric acid, 500 ml of ethyl acetate are added and the pH value is brought between 1.0 and 1.5 always by addition of a 30% (w/v) aqueous solution of hydrochloric acid. The stirring is discontinued after 15 minutes and the layers are separated 20 minutes later. The aqueous layer is eliminated off while the organic layer is first washed with 150 ml of a 10% (w/v) aqueous solution of sodium chloride and then is evaporated to dryness obtaining 223.5 g of product in the form of an oily residue having a pureness equal to 87.2% with a yield equal to 94%.

reactant | L-lysine hydrochloride | 0.50 moles, 91.3 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzylchloroformate | 1.05 moles | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 800 ml | O | H2O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N2,N6-bis[(phenylmethoxy)carbonyl]-L-lysine | 223.5 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C22H26N2O6
